US05036075
The experiment is carried out as in Example 44, starting with 2-{3-[4-(3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (11 g) in dimethylformamide (150 cc), acetyl chloride (1.95 cc) in dioxane (50 cc) and sodium hydride (1.3 g as a 50% dispersion in vaseline oil). The mixture is stirred for 15 hours at a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar), firstly with dichloromethane as eluant and then with ethyl acetate as eluant, then recrystallization from boiling acetonitrile (45 cc), 2-{3-[4-(1-acetyl-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide (1.3 g) is obtained, m.p. 163° C.

reactant | 2-{3-[4-(3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 11 g | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H25N3O2S
reactant | sodium hydride | [H-].[Na+]
reactant | acetyl chloride | 1.95 cc | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | 150 cc | CN(C=O)C | C3H7NO
solvent | dioxane | 50 cc | O1CCOCC1 | C4H8O2
product | 2-{3-[4-(1-acetyl-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide | 1.3 g | C(C)(=O)N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C28H27N3O3S
